US07514451B2
(3R,4R)-(1-Benzyloxycarbonyl-4-hydroxypyrrolidin-3-yl)methanol (503 mg) and triphenylphosphine (577 mg) were dissolved in N,N-dimethylacetamide (10 mL) While this solution was chilled in an ice water bath, carbon tetrabromide (730 mg) in dichloromethane (2 mL) was added dropwise. After the reaction mixture was stirred at room temperature for 5 hours, methanol (1 mL) was added and the mixture was concentrated under reduced pressure. The residue was dissolved in ethyl acetate (50 mL), washed with saturated brine (2×10 mL), dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (eluant: ethyl acetate: hexane=2:1) to give (3S,4R)-1-benzyloxycarbonyl-3-bromomethyl-4-hydroxypyrrolidine as a milky white syrup (503 mg).

reactant | (3R,4R)-(1-Benzyloxycarbonyl-4-hydroxypyrrolidin-3-yl)methanol | 503 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@H](C1)O)CO | C13H17NO4
reactant | triphenylphosphine | 577 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 730 mg | C(Br)(Br)(Br)Br | CBr4
reactant | methanol | 1 mL | CO | CH4O
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (3S,4R)-1-benzyloxycarbonyl-3-bromomethyl-4-hydroxypyrrolidine | 503 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@H](C1)O)CBr | C13H16BrNO3
